data/mechanisms/records/IMS8-EQ8.37b.json
{"mechanism_id": "IMS8-EQ8.37b", "species": [{"species_id": "diethyl_ether_radical_cation", "mapped_smiles": "[CH3:1][CH2:2][O+:3][CH2:4][CH3:5]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "methyl_radical", "mapped_smiles": "[CH3:1]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "ethyl_oxocarbenium", "mapped_smiles": "[CH2:2]=[O+:3][CH2:4][CH3:5]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["diethyl_ether_radical_cation"]}, {"state_id": "state_products", "species_ids": ["methyl_radical", "ethyl_oxocarbenium"]}], "steps": [{"step_id": "step_alpha_cleavage", "from_state": "state_precursor", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [3]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "atom", "atom_maps": [1]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_8_37b", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_cleavage", "support_type": "textbook_proposed", "locator": {"page": 169, "equation": "8.37", "figure": null, "panel": null, "section": "8.6 Sigma-bond dissociation (sigma)"}, "confidence": 0.6, "curator_note": "Equation 8.37, line 2 of 3: 'OE+.  A(+)BCD  --sigma-->  A. + B=C(+)D'. Unlike line 1 (simple homolysis to a saturated carbenium), this branch expels a radical A. AND forms a NEW double bond B=C in the product, with the '+' drawn ON the doubly-bonded atom C. ARC COUNT (convention D): the book draws 0 curved arrows/fishhooks - a straight sigma-labelled net reaction arrow only. The 3 encoded electron_moves are IMPLICIT (reconstructed for balance, not drawn) and constitute a canonical radical-site alpha-cleavage (convention A, three fishhooks): move <1> the radical-site odd electron on the heteroatom (map 3) forms the new B=C pi bond (bond 2-3); move <2> one electron of the cleaving A-B sigma bond (bond 1-2) also enters that forming pi bond (bond 2-3); move <3> the other electron of the A-B sigma bond goes to the departing radical A (atom 1). MASS-BALANCE FINDING (why this is not a pure hydrocarbon): a saturated alkane radical cation CnH(2n+2)+. undergoing a SINGLE sigma-bond homolysis can only give a SATURATED carbenium CpH(2p+1)+ - forming a C=C double-bond cation CpH(2p-1)+ would require losing two extra H. So line 2, drawn as a saturated linear A-B-C-D chain yet producing a double-bond cation B=C(+)D, cannot be a pure C/H species; the '+' localized on a doubly-bonded atom is the signature of an oxo-/imino-carbenium (or acylium). INSTANTIATION (convention F): instantiated as the classic alpha-cleavage of the DIETHYL ETHER radical cation, mapping A=CH3 (map 1, leaves as .CH3), B=CH2 (map 2), C=O (map 3, the heteroatom that bears the '+' -> ethyl oxocarbenium CH2=O(+)-CH2CH3), D=OCH2CH3's ethyl (maps 4,5). This reproduces the drawn graph A-B-C-D and 'A. + B=C(+)D' exactly and is mass-balanced (C4H10O+. -> .CH3 + C3H7O+). Curator-computed detected ion m/z 59.0491 (C3H7O+); derives from this instantiation, NOT from the page (the page prints no m/z or intensity). LOCALIZATION note (conventions B/C): for an ether the radical cation physically localizes +/. on oxygen (n-ionization), so the precursor SMILES places them on O (map 3); the generic scheme instead draws the '+' on the A-B sigma region, a schematic delocalized picture. No resonance ambiguity in the product oxocarbenium."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 74.0726, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_oxocarbenium", "species_id": "ethyl_oxocarbenium", "step_id": "step_alpha_cleavage", "observed_mz": 59.0491, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.5}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-26T00:00:00Z", "modified_at": "2026-07-26T00:00:00Z"}}
